US07253158B2
b) 3,3-Dichloro-5-isopropyl-azepan-2-one
5-Isopropyl-azepan-2-one (39.5 g, 254.4 mmol) was dissolved in xylenes (1.1 liter) and phosphorus pentachloride (159.0 g, 763.3 mmol) was added and the reaction mixture slowly warmed to 90° C. HCl(g) accompanied the slow dissolution of phosphorus pentachloride and after 30 min a clear yellow solution resulted. After a further 90 min at 90° C. the reaction mixture was allowed to cool (ice-water bath) and water (500 ml) was added dropwise. The emulsion was stirred for a further 90 min at r.t and the aqueous layer was washed with CHCl3 (3×). The xylene fraction was concentrated under reduced pressure and the residue was dissolved in CHCl3. The combined organic fractions were washed with water (3×), brine and dried (MgSO4) filtered and evaporated under reduced pressure. The crude brown oil was purified over silica gel (ethyl acetate/n-heptane 1:2): white solid 39.8 g (58%);

reactant | 5-Isopropyl-azepan-2-one | 254.4 mmol, 39.5 g | C(C)(C)C1CCC(NCC1)=O | C9H17NO
reactant | phosphorus pentachloride | 763.3 mmol, 159.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 3,3-Dichloro-5-isopropyl-azepan-2-one | ClC1(C(NCCC(C1)C(C)C)=O)Cl | C9H15Cl2NO
